US08445679B2
ethyl 7-bromo-3-(3-ethoxy-3-oxopropyl)-4-fluoro-1H-indole-2-carboxylate
A mixture of 2-bromo-5-fluoroaniline (5 g) in ethanol (17.5 ml) and 1.6M HCl (50 mL) at −5° C. was treated with 2.5M NaNO2 (10.5 ml). 4.5M potassium acetate (29.2 ml) was then added, followed by ethyl 2-oxocyclopentanecarboxylate (3.8 ml). The reaction mixture was stirred at 0° C. for 15 minutes, warmed to 20° C. over 1.5 hours, extracted with dichloromethane, concentrated and dried in vacuo. The residue was dissolved in 67 ml of (H2SO4/ethanol, 17:50), refluxed for 2 days, cooled to room temperature, quenched with water and extracted with dichloromethane. The combined extracts were washed with brine, dried (MgSO4), filtered and concentrated. The concentrate was purified by column chromatography on silica gel with 5-20% ethyl acetate in hexanes. The product was purified further by trituration with ethanol.

reactant | 2-bromo-5-fluoroaniline | 5 g | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | NaNO2 | 2.5M, 10.5 ml | N(=O)[O-].[Na+]
reactant | potassium acetate | 4.5M, 29.2 ml | C(C)(=O)[O-].[K+]
reactant | ethyl 2-oxocyclopentanecarboxylate | 3.8 ml | O=C1C(CCC1)C(=O)OCC | C8H12O3
solvent | ethanol | 17.5 ml | C(C)O | C2H6O
solvent | HCl | 1.6M, 50 mL | Cl | ClH
product | ethyl 7-bromo-3-(3-ethoxy-3-oxopropyl)-4-fluoro-1H-indole-2-carboxylate | BrC=1C=CC(=C2C(=C(NC12)C(=O)OCC)CCC(=O)OCC)F | C16H17BrFNO4
